US07067517B2
Methyl-phenyl-carbamic acid 4-{2-[(pyridine-3-carbonyl)-amino]-ethyl}-phenyl ester
A solution of 3-pyridinecarboxylic acid (0.3 mmol), EDAC (0.36 mmol) and triethylamine (0.36 mmol) in CH2Cl2 (10 mL) was added N-hydroxybenzoetriazole and N-methyl-N-phenyl-carbamic acid 4-(2-amino-ethyl)phenyl ester as its TFA salt (0.3 mmol). The mixture was stirred 16 h at rt and purified by preparative HPLC (Gilson) to give the title compound in 15% yield as an oil.

reactant | 3-pyridinecarboxylic acid | 0.3 mmol | N1=CC(=CC=C1)C(=O)O | C6H5NO2
reactant | EDAC | 0.36 mmol | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 0.36 mmol | C(C)N(CC)CC | C6H15N
reactant | N-methyl-N-phenyl-carbamic acid 4-(2-amino-ethyl)phenyl ester | NCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C16H18N2O2
reactant | TFA | 0.3 mmol | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Methyl-phenyl-carbamic acid 4-{2-[(pyridine-3-carbonyl)-amino]-ethyl}-phenyl ester | 15% yield | N1=CC(=CC=C1)C(=O)NCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C22H21N3O3
